** sch_path: /home/cmaier/EDA/PUDDING/xschem/test_hvnmirror.sch
**.subckt test_hvnmirror
Vprobe GND vss 0
.save i(vprobe)
G1 vss Vg CUR=' 10**V(logI) '
VlogI logI GND {logI}
.save i(vlogi)
xDUT Vg Vd[7] Vd[6] Vd[5] Vd[4] Vd[3] Vd[2] Vd[1] Vd[0] GND hvnmirror
Vd Vd GND {vout}
.save i(vd)
E[7] Vd[7] sense[7] Vd GND 1
E[6] Vd[6] sense[6] Vd GND 1
E[5] Vd[5] sense[5] Vd GND 1
E[4] Vd[4] sense[4] Vd GND 1
E[3] Vd[3] sense[3] Vd GND 1
E[2] Vd[2] sense[2] Vd GND 1
E[1] Vd[1] sense[1] Vd GND 1
E[0] Vd[0] sense[0] Vd GND 1
Vsense[7] sense[7] GND 0
Vsense[6] sense[6] GND 0
Vsense[5] sense[5] GND 0
Vsense[4] sense[4] GND 0
Vsense[3] sense[3] GND 0
Vsense[2] sense[2] GND 0
Vsense[1] sense[1] GND 0
Vsense[0] sense[0] GND 0
.save i(vsense[7:0])
**** begin user architecture code


.include sg13g2_stdcell.spice
.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt


* device parameters
.param l      = 10u
.param lc     = 5u
.param w      = 2u
* instrumentation parameters
.param logI=-7
.param vout=0.6
* simulation parameters




.include test_hvnmirror.save
.temp=27
.options gmin=1e-15 abstol=1p method=gear
.options savecurrents
.control
save all
op
write test_hvnmirror.raw
set appendwrite
foreach l_val 10u
  foreach lc_val 5u
    alterparam l = $l_val
    alterparam lc = $lc_val
    reset
    save all
    dc Vd 0 1.2 10m VlogI -8 -5 0.5
    write test_hvnmirror.raw
    plot Vg Vd
    plot vprobe#branch 0-"vsense[0]#branch"
    plot 2*(vprobe#branch+8*"vsense[0]#branch")/(vprobe#branch-8*"vsense[0]#branch")
  end
end
.endc


**** end user architecture code
**.ends

* expanding   symbol:  hvnmirror.sym # of pins=3
** sym_path: /home/cmaier/EDA/PUDDING/xschem/hvnmirror.sym
** sch_path: /home/cmaier/EDA/PUDDING/xschem/hvnmirror.sch
.subckt hvnmirror Iin Iout[7] Iout[6] Iout[5] Iout[4] Iout[3] Iout[2] Iout[1] Iout[0] VSS
*.iopin VSS
*.iopin Iin
*.iopin Iout[7],Iout[6],Iout[5],Iout[4],Iout[3],Iout[2],Iout[1],Iout[0]
XM2[7] vd_in[7] Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM2[6] vd_in[6] Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM2[5] vd_in[5] Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM2[4] vd_in[4] Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM2[3] vd_in[3] Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM2[2] vd_in[2] Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM2[1] vd_in[1] Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM2[0] vd_in[0] Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM3 vd_0 Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM1[7] Iin Iin vd_in[7] VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM1[6] Iin Iin vd_in[6] VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM1[5] Iin Iin vd_in[5] VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM1[4] Iin Iin vd_in[4] VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM1[3] Iin Iin vd_in[3] VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM1[2] Iin Iin vd_in[2] VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM1[1] Iin Iin vd_in[1] VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM1[0] Iin Iin vd_in[0] VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM4 Iout[0] Iin vd_0 VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM5 vd_1 Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM6 Iout[1] Iin vd_1 VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM7 vd_2 Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM8 Iout[2] Iin vd_2 VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM9 vd_3 Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM10 Iout[3] Iin vd_3 VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM11 vd_4 Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM12 Iout[4] Iin vd_4 VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM13 vd_5 Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM14 Iout[5] Iin vd_5 VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM15 vd_6 Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM16 Iout[6] Iin vd_6 VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
XM17 vd_7 Iin VSS VSS sg13_hv_nmos w=2u l=10u ng=1 m=1
XM18 Iout[7] Iin vd_7 VSS sg13_hv_nmos w=2u l=5u ng=1 m=1
.ends

.GLOBAL GND
.end
